US07094807B2
Preparation of 4-[3-Methyl-3-(2-Phenoxy-acetyl)-thioureido]benzoic Acid Butyl Ester (Compound 2)
t-BuOK (0.55 mL of 1.0 N solution) in THF is added to a solution of phenoxy-N-methylacetamide (83 mg, 0.5 mmol) in THF (5 mL). After 5 minutes, butyl-4-isothiocyanatobenzoate (118 mg, 0.5 mmol) is added in one portion and the resultant mixture is stirred overnight. The crude mixture is filtered through a silica pad. After purification on silica eluting with 25% EtOAc in hexane, the desired acylthiouraea is obtained as a yellow oil (20 mg).

reactant | t-BuOK | 1.0 N, 0.55 mL | CC(C)(C)[O-].[K+]
reactant | phenoxy-N-methylacetamide | 0.5 mmol, 83 mg | O(C1=CC=CC=C1)CC(=O)NC | C9H11NO2
reactant | butyl-4-isothiocyanatobenzoate | 0.5 mmol, 118 mg | C(CCC)OC(C1=CC=C(C=C1)N=C=S)=O | C12H13NO2S
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-[3-Methyl-3-(2-Phenoxy-acetyl)-thioureido]benzoic Acid Butyl Ester | 20 mg | C(CCC)OC(C1=CC=C(C=C1)NC(=S)N(C(COC1=CC=CC=C1)=O)C)=O | C21H24N2O4S
